US08729263B2
Step 3: 5-(1H-Pyrazol-1-yl)-2-(6-(pyrrolidin-3-yloxy)pyridazin-3-yl)phenol
Following GENERAL METHOD 3-1 for phenol deprotection using thiophenol, 3-(2-methoxy-4-(1H-pyrazol-1-yl)phenyl)-6-(pyrrolidin-3-yloxy)pyridazine (91 mg, 0.24 mmol) was treated with thiophenol (30 mg, 0.27 mmol) and K2CO3 (30 mg, 0.22 mmol) in NMP (1.6 mL) for 15 min at 190° C. After HPLC purification (0.1% trifluoroacetic acid as modifier), the product-containing fractions were free based by catch and release using SiliaBond Propylsulfonic Acid® (2 g, MeOH as eluent and a 2 N ammonia solution in MeOH to release the material). Solvent was concentrated under reduced pressure and a pale brown solid (83 mg, 68%) was afforded. LCMS Rt=0.48 min (LCMS method Q); [M+H]: 324.1457; 1H NMR (400 MHz, CHLOROFORM-d) δ 13.62 (bs, 1H), 7.97 (d, J=2.5 Hz, 1H), 7.97 (d, J=9.5 Hz, 1H), 7.74 (d, J=1.5 Hz, 1H), 7.70 (d, J=8.5 Hz, 1H), 7.39-7.43 (m, 1H), 7.38 (d, J=2.5 Hz, 1H), 7.12 (d, J=9.5 Hz, 1H), 6.44-6.51 (m, 1H), 5.74 (ddt, J=7.0, 5.0, 2.5 Hz, 1H), 3.24-3.31 (m, 2H), 3.17-3.24 (m, 1H), 3.02 (ddd, J=11.0, 8.5, 5.5 Hz, 1H), 2.20-2.33 (m, 1H), 2.02-2.11 (m, 1H).

reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | thiophenol | C1(=CC=CC=C1)S | C6H6S
reactant | 3-(2-methoxy-4-(1H-pyrazol-1-yl)phenyl)-6-(pyrrolidin-3-yloxy)pyridazine | 0.24 mmol, 91 mg | COC1=C(C=CC(=C1)N1N=CC=C1)C=1N=NC(=CC1)OC1CNCC1 | C18H19N5O2
reactant | thiophenol | 0.27 mmol, 30 mg | C1(=CC=CC=C1)S | C6H6S
reactant | K2CO3 | 0.22 mmol, 30 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | NMP | 1.6 mL | CN1CCCC1=O | C5H9NO
product | 5-(1H-Pyrazol-1-yl)-2-(6-(pyrrolidin-3-yloxy)pyridazin-3-yl)phenol | 83 mg, 68% | N1(N=CC=C1)C=1C=CC(=C(C1)O)C=1N=NC(=CC1)OC1CNCC1 | C17H17N5O2
